US07129250B2
Crude N-(2-hydroxyethyl)-5-benzyloxyindole (11.09 g, 42.1 mmol), acetic anhydride (4.36 mL, 46.3 mmol), triethylamine (6.50 mL,46.3 mmol), and DMAP (100 mg) were stirred together in THF for 1 hour before standard aqueous workup provided N-(2-acetoxyethyl)-5-benzyloxyindole in yield as a clear oil (13.0 g, 99%). 1H NMR (500 MHz, CDCl3) δ 7.51 (d, J=8.1 Hz, 2H), 7.42 (t, J=8.1 Hz, 2H), 7.35 (s, 1H), 7.27 (d, J=8.9 Hz, 1H), 7.21 (d, J=2.4 Hz, 1H), 7.09 (d, J=3.1 Hz, 1H), 7.01 (dd, J=2.4, 8.1 HZ, 1H), 6.47 (dd, J=0.8, 3.1 Hz, 1H), 5.14 (s, 2H), 4.37 (t, J=5.0 Hz, 2H), 4.31 (t, J=5.0 Hz, 2H), 2.02 (s, 3H). 13C NMR (50 MHz, CDCl3) δ 170.6, 153.3, 137.7, 131.6, 128.9, 128.5 (2 C's), 128.4, 127.7, 127.5 (2 C's), 112.8, 109.8, 104.,3 101.4, 70.9, 63.0, 45.0, 20.7. MS (EI, m/z) M+=309.

reactant | N-(2-hydroxyethyl)-5-benzyloxyindole | 42.1 mmol, 11.09 g | OCCN1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1 | C17H17NO2
reactant | acetic anhydride | 46.3 mmol, 4.36 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 46.3 mmol, 6.50 mL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | C1CCOC1 | C4H8O
product | N-(2-acetoxyethyl)-5-benzyloxyindole | C(C)(=O)OCCN1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1 | C19H19NO3
